US07405210B2
Preparation 35: 5-Methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester
To a suspension of 3-(6-methoxy-3-nitropyridin-2-yl)-2-oxopropionic acid ethyl ester (Preparation 34, 276 mg, 1.03 mmol) in THF (12 mL) and ethanol (5 mL) was added saturated aqueous ammonium chloride solution (5 mL) and iron powder (346 mg, 6.18 mmol) in one portion. The reaction mixture was heated under reflux for 1 h then filtered whilst still hot through a celite plug, washing with hot ethyl acetate. The filtrate was cooled and washed with brine (20 mL), dried (MgSO4), filtered and adsorbed onto silica gel in vacuo. Purification via flash column chromatography (SiO2, ethyl acetate/hexanes, 1:9) gave the title compound as a beige solid. δH (CDCl3): 1.40 (3H, t), 3.99 (3H, s), 4.41 (2H, q), 6.74 (1H, d), 7.20 (1H, m), 7.62 (1H, d), 9.27 (1H, s).

reactant | 3-(6-methoxy-3-nitropyridin-2-yl)-2-oxopropionic acid ethyl ester | 1.03 mmol, 276 mg | C(C)OC(C(CC1=NC(=CC=C1[N+](=O)[O-])OC)=O)=O | C11H12N2O6
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | iron | 6.18 mmol, 346 mg | [Fe] | Fe
product | 5-Methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=NC(=CC=C2N1)OC | C11H12N2O3
